US04933355
5-[2-(m-trifluoromethylanilino)thiazol-4-ylmethylene]rhodanine-3-acetic acid
The reaction described in Example 1 was repeated, but using 1 g of 2-(m-trifluoromethylanilino)thiazole-4-carbaldehyde, 0.7 g of rhodanine-3-acetic acid, 0.5 g of ammonium chloride, 0.5 ml of 28% v/v aqueous ammonia, and 10 ml of ethanol, giving the title compound as yellowish-orange prisms.

reactant | 2-(m-trifluoromethylanilino)thiazole-4-carbaldehyde | 1 g | FC(C=1C=C(NC=2SC=C(N2)C=O)C=CC1)(F)F | C11H7F3N2OS
reactant | rhodanine-3-acetic acid | 0.7 g | S1C(=S)N(C(=O)C1)CC(=O)O | C5H5NO3S2
reactant | ammonium chloride | 0.5 g | [Cl-].[NH4+]
reactant | ammonia | N | H3N
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 5-[2-(m-trifluoromethylanilino)thiazol-4-ylmethylene]rhodanine-3-acetic acid | FC(C=1C=C(NC=2SC=C(N2)C=C2C(N(C(S2)=S)CC(=O)O)=O)C=CC1)(F)F | C16H10F3N3O3S3
